US07579469B2
To 1.7 g (8.16 mmol) of (6-fluoro-4-methylchroman-4-yl)acetaldehyde and 1.69 mL (11.4 mmol) of trimethyl(trifluoromethyl)silane in 15 mL of tetrahydrofuran was added 1 mL (1 mmol) of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran. The mixture stirred for 1 hour and then an additional 9 mL (9 mmol) of a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran was added. After 18 hours, the mixture was concentrated in vacuo and diluted with 1N aqueous HCl and extracted with three 50 mL portions of diethyl ether. The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to afford 2.4 g of crude 1,1,1-trifluoro-3-(6-fluoro-4-methylchroman4-yl)propan-2-ol as a mixture of diastereomers. The crude oil was used without further purification.

reactant | (6-fluoro-4-methylchroman-4-yl)acetaldehyde | 8.16 mmol, 1.7 g | FC=1C=C2C(CCOC2=CC1)(C)CC=O | C12H13FO2
reactant | trimethyl(trifluoromethyl)silane | 11.4 mmol, 1.69 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1,1,1-trifluoro-3-(6-fluoro-4-methylchroman4-yl)propan-2-ol | 2.4 g | FC(C(CC1(CCOC2=CC=C(C=C12)F)C)O)(F)F | C13H14F4O2
